US07572805B2
Part B. N,N,4-Triethyl-2-fluorobenzamide
To a solution of 4-bromo-N,N-diethyl-2-fluorobenzamide (5.12 g, 18.9 mmol) in 100 mL of DMF was added potassium carbonate (6.45 g, 46.7 mmol) and diethylzinc (25.5 mL of a 1.1 M solution in toluene, 28.02 mmol). The solution was degassed with a stream of argon and then there was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (305 mg, 0.37 mmol). The reaction mixture was allowed to stir at 80° C. for 3 h. The reaction mixture was allowed to cool and was diluted with ethyl acetate. The organics were washed with water and brine, dried (MgSO4) and concentrated. The residue was purified (ISCO, elution with 0-40% EtOAc/hexane, 40 min) to afford 3.70 g (88%) of the title compound as a colorless oil. LRMS (ESI): 224.2 (M+H)+.

reactant | 4-bromo-N,N-diethyl-2-fluorobenzamide | 18.9 mmol, 5.12 g | BrC1=CC(=C(C(=O)N(CC)CC)C=C1)F | C11H13BrFNO
reactant | potassium carbonate | 46.7 mmol, 6.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethylzinc | C(C)[Zn]CC
reactant | dichloromethane | 0.37 mmol, 305 mg | ClCCl | CH2Cl2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N,N,4-Triethyl-2-fluorobenzamide | 3.70 g, 88% | C(C)N(C(C1=C(C=C(C=C1)CC)F)=O)CC | C13H18FNO
